US08629197B2
Recombinant rat PDGF-AA was purchased from R&D Systems (Minneapolis, Minn., USA) and dissolved in 4 mM HCl with 10% 1,2-propanediol at a concentration of 400 μg/ml (40 μg/100 μl). The water-soluble carboimide, 1-ethyl-3-(3-dimethylaminopropyl) carboimide hydrochloride (EDC, 50 μl; Sigma-Aldrich) and N-Hydroxysulfosuccinimide (sulfo-NHS, 50 μl; Pierce) in 0.1 M 2-(N-morpholino)ethanesulfonic acid (MES) buffer, 1 M NaCl, pH 6 (reaction buffer) were added to the PDGF-AA solution to obtain a final concentration of 11 mM EDC and 12 mM sulfo-NHS. After mixing and reacting the above reagents at room temperature for 15 min, Alexa Fluor 350 hydrazide sodium salt (5 mM) in dimethyl sulfoxide (DMSO) and 4-(4-N-maleimidophenyl) butyric acid hydrazide (MPBH, 7 mM) in 0.1 M sodium acetate pH 5.5 (200 μl) were added to the PDGF-AA for 75 min at room temperature. After adding 20 mM HCl (80 μl), the modified PDGF-AA (MI-PDGF-AA) was purified with AKTA-FPLC (Amersham Pharmacia) using Sephadex G-25 (Sigma-Aldrich) column (10×200 mm) (Amersham Pharmacia) equilibrated in 4 mM HCl pH 2.3, 150 mM NaCl, 5% propanediol. Elution of MI-PDGF-AA was monitored at 280 nm using UV-Vis monitor (UPC-900 Pharmacia Biotech) equipped on the FPLC. Fluorescently tagged MI-PDGF-AA was confirmed by measuring fluorescent emission at 445 nm on a fluorescence plate reader (345 nm excitation, Molecular Device). The concentration of MI-PDGF-AA was determined using the PDGF-AA enzyme-linked immunosorbent assay (ELISA; R&D Systems). Assays were performed according to the manufacturer's instructions. The yield of MI-PDGF-AA was determined to be 30.4 μg (7.6 μg/ml), yielding 76% recovery. To confirm the conjugation of MPBH to PDGF-AA, the reaction described above, excluding the addition of Alexa Fluor 350 was performed. The molecular weight of conjugated PDGF-AA-MPBH was determined using MALDI-TOF.

reactant | water | O | H2O
reactant | N-Hydroxysulfosuccinimide | 50 μl | ON1C(C(CC1=O)S(=O)(=O)O)=O | C4H5NO6S
reactant | EDC
reactant | NaCl | 1 M | [Na+].[Cl-]
solvent | HCl | 4 mM | Cl | ClH
solvent | 1,2-propanediol | C(C(C)O)O | C3H8O2
solvent | 2-(N-morpholino)ethanesulfonic acid | 0.1 M | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
product | sulfo-NHS | 12 mM | C1C(C(=O)N(C1=O)O)S(=O)(=O)[O-].[Na+] | InChI=1S/C4H5NO6S.Na/c6-3-1-2(12(9,10)11)4(7)5(3)8;/h2,8H,1H2,(H,9,10,11);/q;+1/p-1
